US09238640B2
Preparation of N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)acetamide
A solution of 2-(4-(3-aminopyrrolidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.150 g, 0.41 mmol) in CH2Cl2 (10 mL) was treated with Et3N (0.114 mL, 0.82 mmol), cooled to 0° C., and acetyl chloride (0.029 mL, 0.41 mmol) was added. The mixture was stirred for 2 hours at room temperature, concentrated, and purified by flash chromatography on silica gel, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH. The mixture was further purified by flash chromatography on silica gel, eluting with 9:1 methylene chloride/methanol, to afford the title compound (0.130 g, 78%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 11.67 (s, 1H), 8.18 (d, J=6.8 Hz, 1H), 8.14 (d, J=6.8 Hz, 2H), 6.66 (d, J=2.3 Hz, 1H), 6.60 (d, J=9.0 Hz, 2H), 6.44 (d, J=2.3 Hz, 1H), 4.36-4.39 (m, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.13-3.59 (m, 5H), 2.15-2.22 (m, 1H), 1.90-1.94 (m, 1H), 1.82 (s, 3H). ESI MS m/z 409 [M+H]+.

reactant | 2-(4-(3-aminopyrrolidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.41 mmol, 0.150 g | NC1CN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C20H22N4O3
reactant | Et3N | 0.82 mmol, 0.114 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.41 mmol, 0.029 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)acetamide | 0.130 g, 78% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CC(CC1)NC(C)=O)=O | C22H24N4O4
